US04745115
1-(2'-Chlorophenyl)-1,4-dihydro-benz[g]isoquinol-3-one
A mixture of 5-bromo-1-(2'-chlorophenyl)-1,4-dihydrobenz[g]isoquinol-3-one (Description 7) (7.6 g), sodium acetate (3.0 g) and 10% palladium-charcoal (2.0 g) in acetic acid (750 ml) was hydrogenated at atmospheric temperature and pressure until the initial rapid uptake of hydrogen had ceased (2.5 hours). The mixture was filtered (celite) and the filtrate evaporated to dryness in vacuo and recrystallised from ethylacetate to afford the title compound (4.65 g) m.p. 234°-237° C.

reactant | 5-bromo-1-(2'-chlorophenyl)-1,4-dihydrobenz[g]isoquinol-3-one | 7.6 g | BrC1=C2CC(NC(C2=CC2=C1C=CC=C2)C2=C(C=CC=C2)Cl)=O | C19H13BrClNO
reactant | sodium acetate | 3.0 g | C(C)(=O)[O-].[Na+]
reactant | hydrogen | [H][H] | H2
solvent | acetic acid | 750 ml | C(C)(=O)O | C2H4O2
catalyst | palladium-charcoal | 2.0 g | [Pd] | Pd
product | 1-(2'-Chlorophenyl)-1,4-dihydro-benz[g]isoquinol-3-one | 4.65 g | ClC1=C(C=CC=C1)C1NC(CC2=CC3=C(C=C12)C=CC=C3)=O | C19H14ClNO
